Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=C1c2ccccc2C(=O)[N:1]1[CH2:2][CH2:3][O:4][c:5]1[cH:6][c:7]([NH:8][c:9]2[cH:10][cH:11][c:12]([CH3:13])[c:14]([CH3:15])[n:16]2)[c:17]([C:18]([NH2:19])=[O:20])[n:21][n:22]1>>[NH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][c:7]([NH:8][c:9]2[cH:10][cH:11][c:12]([CH3:13])[c:14]([CH3:15])[n:16]2)[c:17]([C:18]([NH2:19])=[O:20])[n:21][n:22]1,[O:201]=[C:102]1[c:202]2cccc[c:204]2[C:101](=[O:203])[N:1]1[CH2:2][CH2:3][O:4][c:5]1[cH:6][c:7]([NH:8][c:9]2[cH:10][cH:11][c:12]([CH3:13])[c:14]([CH3:15])[n:16]2)[c:17]([C:18]([NH2:19])=[O:20])[n:21][n:22]1.[NH2:301][NH2:302]>>[NH2:1][CH2:2][CH2:3][O:4][c:5]1[cH:6][c:7]([NH:8][c:9]2[cH:10][cH:11][c:12]([CH3:13])[c:14]([CH3:15])[n:16]2)[c:17]([C:18]([NH2:19])=[O:20])[n:21][n:22]1,Ing_Manske,"[(301, 102), ([102, 201], 201), (201, [201, 102]), ([102, 1], 1), (1, 301.1), ([301.1, 301], 301), (302, 101), ([101, 203], 203), (1, 302.1), ([302.1, 302], 302), (203, [203, 101]), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH2:1]=[CH:2][C:3]#[N:4].[CH3:5][c:6]1[cH:7][cH:8][cH:9][c:10]([OH:11])[cH:12]1>>[CH2:1]([CH2:2][C:3]#[N:4])[O:11][c:10]1[cH:9][cH:8][cH:7][c:6]([CH3:5])[cH:12]1,[CH3:5][c:6]1[cH:7][cH:8][cH:9][c:10]([OH:11])[cH:12]1.[CH2:1]=[CH:2][C:3]#[N:4].[Na+].[OH1-:301]>>[CH2:1]([CH2:2][C:3]#[N:4])[O:11][c:10]1[cH:9][cH:8][cH:7][c:6]([CH3:5])[cH:12]1,Michael_addition,"[(301, 11.1), ([11.1, 11], 11), (11, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1]([CH3:2])(=[O:3])=[O:4].[CH3:5][N:6]([C:7](=[O:8])[O:9][C:10]([CH3:11])([CH3:12])[CH3:13])[C@@H:14]([CH2:15][NH2:16])[CH2:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[S:1]([CH3:2])(=[O:3])(=[O:4])[NH:16][CH2:15][C@H:14]([N:6]([CH3:5])[C:7](=[O:8])[O:9][C:10]([CH3:11])([CH3:12])[CH3:13])[CH2:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,[CH3:5][N:6]([C:7](=[O:8])[O:9][C:10]([CH3:11])([CH3:12])[CH3:13])[C@@H:14]([CH2:15][NH2:16])[CH2:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[Cl:101][S:1]([CH3:2])(=[O:3])=[O:4]>>[S:1]([CH3:2])(=[O:3])(=[O:4])[NH:16][CH2:15][C@H:14]([N:6]([CH3:5])[C:7](=[O:8])[O:9][C:10]([CH3:11])([CH3:12])[CH3:13])[CH2:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(16, 1), ([1, 3], 3), (3, [3, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][c:4]2[n:5][c:6]([C:7]([CH3:8])([CH3:9])[CH3:10])[n:11]([CH2:12][CH:13]3[CH2:14][CH2:15][C:16]([F:17])([F:18])[CH2:19][CH2:20]3)[c:21]2[cH:22][cH:23]1)=[O:24].[CH3:25][O:26][C:27](=[O:28])[CH2:29][CH:30]1[CH2:31][CH2:32][NH:33][CH2:34][CH2:35]1>>[C:1]([c:2]1[cH:3][c:4]2[n:5][c:6]([C:7]([CH3:8])([CH3:9])[CH3:10])[n:11]([CH2:12][CH:13]3[CH2:14][CH2:15][C:16]([F:17])([F:18])[CH2:19][CH2:20]3)[c:21]2[cH:22][cH:23]1)(=[O:24])[N:33]1[CH2:32][CH2:31][CH:30]([CH2:29][C:27]([O:26][CH3:25])=[O:28])[CH2:35][CH2:34]1,[OH:101][C:1]([c:2]1[cH:3][c:4]2[n:5][c:6]([C:7]([CH3:8])([CH3:9])[CH3:10])[n:11]([CH2:12][CH:13]3[CH2:14][CH2:15][C:16]([F:17])([F:18])[CH2:19][CH2:20]3)[c:21]2[cH:22][cH:23]1)=[O:24].[CH3:25][O:26][C:27](=[O:28])[CH2:29][CH:30]1[CH2:31][CH2:32][NH:33][CH2:34][CH2:35]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][c:4]2[n:5][c:6]([C:7]([CH3:8])([CH3:9])[CH3:10])[n:11]([CH2:12][CH:13]3[CH2:14][CH2:15][C:16]([F:17])([F:18])[CH2:19][CH2:20]3)[c:21]2[cH:22][cH:23]1)(=[O:24])[N:33]1[CH2:32][CH2:31][CH:30]([CH2:29][C:27]([O:26][CH3:25])=[O:28])[CH2:35][CH2:34]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (33, 1), ([1, 24], 24), (303, 33.1), ([33.1, 33], 33), (24, [24, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
